US06855716B2
Synthesis of 2-amino-4-(3-chlorophenyl)-6-methyl-1,4-dihydropyrimidine-5-carboxylic acid (3,3-diphenylpropyl)amide
111 mg (0.234 mmol) of 4-(3-chlorophenyl)-2-methoxyl-6-methyl-1,4-dihydropyrimidine-5-carboxylic acid (3,3-diphenylpropyl)amide was dissolved in 5 ml of ethanol. 67.4 mg (0.702 mmol) of ammonium carbonate and 11.8 mg (0.187 mmol) of ammonium acetate were added to the obtained solution, and they were stirred at 80° C. for 2 days. The reaction mixture was diluted with ethyl acetate. An insoluble matter thus formed was filtered out, and the filtrate was concentrated under reduced pressure. The residue was purified by the basic silica gel chromatography (100% dichloromethane) to obtain the title compound.

reactant | 4-(3-chlorophenyl)-2-methoxyl-6-methyl-1,4-dihydropyrimidine-5-carboxylic acid (3,3-diphenylpropyl)amide | 0.234 mmol, 111 mg | C1(=CC=CC=C1)C(CCNC(=O)C=1C(N=C(NC1C)OC)C1=CC(=CC=C1)Cl)C1=CC=CC=C1 | C28H28ClN3O2
reactant | ammonium carbonate | 0.702 mmol, 67.4 mg | C([O-])([O-])=O.[NH4+].[NH4+]
reactant | ammonium acetate | 0.187 mmol, 11.8 mg | C(C)(=O)[O-].[NH4+]
solvent | ethanol | 5 ml | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-amino-4-(3-chlorophenyl)-6-methyl-1,4-dihydropyrimidine-5-carboxylic acid (3,3-diphenylpropyl)amide | C1(=CC=CC=C1)C(CCNC(=O)C=1C(N=C(NC1C)N)C1=CC(=CC=C1)Cl)C1=CC=CC=C1 | C27H27ClN4O
